US06743802B2
Following the procedure of Step 5 of EXAMPLE 1, but substituting the 1-(3-Bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide from present Step 1 for N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide and trimethylsilylacetylene for phenylacetylene, the 1-[3-(trimethylsilylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide product was obtained as a solid.

reactant | N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)Br | C18H16BrN3O2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | 1-[3-(trimethylsilylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C[Si](C)(C)C#CC=1C=C(C=CC1)N1C=C(C(C2=CC=CN=C12)=O)C(=O)N | C20H19N3O2Si
